US07449467B2
tert-Butyl [(1R,3S)-3-isopropyl-3-({4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-yl}carbonyl)cyclopentyl]carbamate
To a solution of 1-[4-(trifluoromethyl)pyridin-2-yl]piperazine (145 mg, 0.627 mmol), (1S,3R)-3-[(tert-butoxycarbonyl)amino]-1-isopropylcyclopentanecarboxylic acid (140 mg, 0.52 mmol) in methylene chloride (10 mL) was added benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (253 mg, 0.572 mmol) followed by triethylamine (0.156 mL, 1.12 mmol). After being stirred overnight, the reaction mixture was diluted with EtOAc and washed with saturated NaHCO3. The aqueous layer was extracted with EtOAc three times. The combined organic layers were dried (MgSO4), concentrated and purified by flash chromatography on silica gel (20% EtOAc/hexanes to 40% EtOAc/hexanes) to give 0.15 g of desired product. MS calculated for C24H35F3N4O3: (M+H) 485; found 385.2 (M-Boc+H).

reactant | 1-[4-(trifluoromethyl)pyridin-2-yl]piperazine | 0.627 mmol, 145 mg | FC(C1=CC(=NC=C1)N1CCNCC1)(F)F | C10H12F3N3
reactant | (1S,3R)-3-[(tert-butoxycarbonyl)amino]-1-isopropylcyclopentanecarboxylic acid | 0.52 mmol, 140 mg | C(C)(C)(C)OC(=O)N[C@H]1C[C@](CC1)(C(=O)O)C(C)C | C14H25NO4
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.572 mmol, 253 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 1.12 mmol, 0.156 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-Butyl [(1R,3S)-3-isopropyl-3-({4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-yl}carbonyl)cyclopentyl]carbamate | 0.15 g | C(C)(C)[C@]1(C[C@@H](CC1)NC(OC(C)(C)C)=O)C(=O)N1CCN(CC1)C1=NC=CC(=C1)C(F)(F)F | C24H35F3N4O3
